US07553964B2
2-Methyl-5-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-benzothiazole
A solution of 5-bromo-2-methyl-benzothiazole (2 g, 8.8 mmol), bis(pinacolato)diboron (2.7 g, 10.6 mmol), potassium acetate (3.1 g, 31.7 mmol) and Pd(dppf)2Cl2 dichloromethane complex (1:1) (360 mg, 0.51 mmol) in anhydrous tetrahydrofuran (70 mL) under a nitrogen atmosphere was heated to reflux overnight. After cooling to ambient temperature, the reaction mixture was filtered through diatomaceous earth and washed with ethyl acetate. The filtrate was washed with water and brine, dried (MgSO4) and concentrated. The residue was chromatographed on silica gel eluting with 10% ethyl acetate in hexanes to provide the title compound as white crystals (1.96 g, 81%). 1H NMR (300 MHz, CD3Cl3) δ 1.37 (s, 12 H), 2.84 (s, 3 H), 7.75 (d, J=9 Hz, 1 H), 7.82 (d, J=9 Hz, 1 H), 8.38 (s, 1 H); (DCl/NH3) m/z 276 (M+H)+.

reactant | 5-bromo-2-methyl-benzothiazole | 8.8 mmol, 2 g | BrC=1C=CC2=C(N=C(S2)C)C1 | C8H6BrNS
reactant | bis(pinacolato)diboron | 10.6 mmol, 2.7 g | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | potassium acetate | 31.7 mmol, 3.1 g | C(C)(=O)[O-].[K+]
solvent | tetrahydrofuran | 70 mL | O1CCCC1 | C4H8O
product | 2-Methyl-5-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-benzothiazole | 1.96 g, 81% | CC=1SC2=C(N1)C=C(C=C2)B2OC(C(O2)(C)C)(C)C | C14H18BNO2S
